US04719036
18.0 parts of diethyl 3-(benzothiazol-2-ylthio)-propane-1,2-dicarboxylate and 30.0 parts of n-butylamine are stirred for 3 hours at 90° C. Volatile material are removed by heating at 90° C. under a vacuum of 0.1 mm to give N,N'-dibutyl 3-(benzothiazol-2-ylthio)-1,2-propane dicarboxylic acid diamide as a viscous liquid.

reactant | diethyl 3-(benzothiazol-2-ylthio)-propane-1,2-dicarboxylate | S1C(=NC2=C1C=CC=C2)SCC(CC(=O)OCC)C(=O)OCC | C16H19NO4S2
reactant | n-butylamine | C(CCC)N | C4H11N
product | N,N'-dibutyl 3-(benzothiazol-2-ylthio)-1,2-propane dicarboxylic acid diamide | C(CCC)NC(=O)CC(CSC=1SC2=C(N1)C=CC=C2)C(=O)NCCCC | C20H29N3O2S2
